US09382265B2
(e) (3S,3 aS)-3-(aminomethyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one
Using compound 2-(((3S,3aS)-1-oxo-7-(2-oxooxazol-3-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)isoindolin-1,3-dione (0.26 g, 0.586 mmol), and methylamine alcohol (0.15 g, 4.686 mmol) as starting materials, ethanol as solvent, preparation following the method as described in Example 1(e) afforded a crude product, which was directly subjected to the next step of reaction without purification.

reactant | 2-(((3S,3aS)-1-oxo-7-(2-oxooxazol-3-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)isoindolin-1,3-dione | 0.586 mmol, 0.26 g | O=C1O[C@H]([C@H]2N1C1=C(OC2)C=C(C=C1)N1C(OC=C1)=O)CN1C(C2=CC=CC=C2C1=O)=O | C22H15N3O7
solvent | ethanol | C(C)O | C2H6O
product | (3S,3 aS)-3-(aminomethyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(OC=C3)=O)=O | C14H13N3O5
